US08420632B2
120 mg (0.9 mmol) of 1-hydroxybenzotriazole and 170 mg (0.9 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride are added to a solution of 340 mg (0.7 mmol) of (S)-3-(4-but-2-ynyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid in 8 ml of dimethylformamide. The reaction medium is stirred for 30 min, and then 120 mg (0.8 mmol) of O-tert-butyldimethysilylhydroxylamine in 3 ml of dimethylformamide are added. The reaction medium is then stirred at ambient temperature for 20 h, and then hydrolyzed with 2 ml of water and 2 ml of a 5% aqueous solution of citric acid. After stirring for 30 min, a saturated aqueous solution of sodium hydrogen carbonate is added to pH=8, and then the reaction medium is extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and concentrated. The residue is taken up in dichloromethane, filtered, and then dried under vacuum. 80 mg (23%) of (S)-3-(4-but-2-ynyloxybenzenesulfonylamino)-N-hydroxy-2-(4-methanesulfonylpiperazin-1-yl)propionamide are obtained in the form of a white solid with a melting point of 150° C.

reactant | 1-hydroxybenzotriazole | 0.9 mmol, 120 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.9 mmol, 170 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (S)-3-(4-but-2-ynyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid | 0.7 mmol, 340 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC[C@@H](C(=O)O)N1CCN(CC1)S(=O)(=O)C | C18H25N3O7S2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 2 ml | O | H2O
product | (S)-3-(4-but-2-ynyloxybenzenesulfonylamino)-N-hydroxy-2-(4-methanesulfonylpiperazin-1-yl)propionamide | 80 mg, 23% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC[C@@H](C(=O)NO)N1CCN(CC1)S(=O)(=O)C | C18H26N4O7S2
